*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/TRANSISTOR_TEST_lpe.spi
#else
.include ../../../work/xsch/TRANSISTOR_TEST.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-5

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VDD4  VDD4 0   dc 0.8
VDD3  VDD3 0   dc 0.8
VDD2  VDD2 0   dc 0.8
VDD1  VDD1 0   dc 0.8
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save i(VDD1)
.save i(VDD2)
.save i(VDD3)
.save i(VDD4)
.save all
*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit




tran 1u 1m
write
quit


.endc

.end
